US06180627B2
tert-Butyl N-[3-(2-aminoethyl)benzyl]-N-methylcarbamate
tert-Butyl-N-[3-(cyanomethyl)benzyl]-N-methylcarbamate (preparation 14) (3 g, 11.5 mmol, slightly impure) was dissolved in ethanol saturated with NH3 (300 ml), treated with Raney® Nickel (500 mg) and stirred under a hydrogen atmosphere (60 psi, room temperature, 18 hr). The catalyst was removed by filtration under nitrogen, the solvent evaporated to dryness and the resultant crude product purified by chromatography (SiO2, gradient elution with 100% CH2Cl2; 95:5 CH2Cl2:MeOH; 90:10 CH2Cl2:MeOH) to give the desired product (2.40 g, 78%). 1H NMR (CDCl3) δ 1.20 (s, 2H), 1.50 (s, 9H), 2.70-2.90 (m, 5H), 3.00 (s, 2H), 4.20 (s, br, 2H), 7.05 (s, br, 3H), 7.25 (s, br, 1H). LRMS m/z=265.1 (M+1)+.

reactant | tert-Butyl-N-[3-(cyanomethyl)benzyl]-N-methylcarbamate | C(C)(C)(C)OC(N(C)CC1=CC(=CC=C1)CC#N)=O | C15H20N2O2
solvent | ethanol | C(C)O | C2H6O
solvent | NH3 | 300 ml | N | H3N
catalyst | Raney® Nickel | 500 mg | [Ni] | Ni
product | tert-Butyl N-[3-(2-aminoethyl)benzyl]-N-methylcarbamate | 2.40 g, 78% | NCCC=1C=C(CN(C(OC(C)(C)C)=O)C)C=CC1 | C15H24N2O2
